US07378409B2
(1R,3R,4S)-(4-Benzyloxycarbonylamino-3-(methyl)sulfonylmethylcyclohexyl)carbamic acid tert-butyl ester (300 mg) was dissolved in MeOH (5 ml) prior to the addition of 10% Pd/C (200 mg). A hydrogen balloon was added and the solution was stirred for 3 h. The palladium was filtered off and the solution was concentrated to give tert-butyl(1R,3R,4S)-4-amino-3-(methylsulfonylmethyl)cyclohexylcarbamate (201 mg). MS found: (M+H)+307.2.

reactant | (1R,3R,4S)-(4-Benzyloxycarbonylamino-3-(methyl)sulfonylmethylcyclohexyl)carbamic acid tert-butyl ester | 300 mg | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)CS(=O)(=O)C)=O | C21H32N2O6S
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 5 ml | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | tert-butyl(1R,3R,4S)-4-amino-3-(methylsulfonylmethyl)cyclohexylcarbamate | 201 mg | N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CS(=O)(=O)C | C13H26N2O4S
